US06255333B1
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)4-iodo-3-trifluoromethylpyrazole
To a stirred solution of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole (0.182 g) in acetonitrile (3 ml) at room temperature was added N-iodosuccinimide (0.113 g). After 20 minutes the mixture was evaporated to dryness and the residue taken up in dichloromethane (20 ml). After washing with water (20 ml, ×2), brine (20 ml) and drying (MgSO4) the solution was evaporated. The residue was triturated with hexane and the supernatant evaporated to give the title compound as an off-white solid, m.p. 126° C.

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | 0.182 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F | C11H5Cl2F6N3
reactant | N-iodosuccinimide | 0.113 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)4-iodo-3-trifluoromethylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)I | C11H4Cl2F6IN3
